US09108939B2
N-(4-((1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)methyl)phenyl)-2-phenylacetamide
2-(4-((4-(4-Aminobenzyl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (0.336 mmol, 150 mg) and 2-phenylacetyl chloride (0.504 mmol, 0.067 mL, 78 mg) were combined in dichloromethane (3 mL) and cooled to 0° C. Triethylamine (0.672 mmol, 0.093 mL, 68.0 mg) was added and the mixture allowed to stir at 0° C. for 2 hours before allowing to warm to room temperature and stirring overnight. The reaction was diluted with dichloromethane and washed with water. The mixture was filtered through a hydrophobic frit and concentrated under vacuum. The residue was purified by flash chromatography on silica gel (eluent: dichloromethane-10% methanol/dichloromethane gradient) to afford the title compound (124.4 mg).

reactant | 2-(4-((4-(4-Aminobenzyl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 0.336 mmol, 150 mg | NC1=CC=C(CC2CCN(CC2)CC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)O)C=C1 | C22H24F6N2O
reactant | 2-phenylacetyl chloride | 0.504 mmol, 0.067 mL, 78 mg | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | Triethylamine | 0.672 mmol, 0.093 mL, 68.0 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N-(4-((1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)methyl)phenyl)-2-phenylacetamide | 124.4 mg | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCC(CC2)CC2=CC=C(C=C2)NC(CC2=CC=CC=C2)=O)C=C1)(F)F | C30H30F6N2O2
